* ptat_6 -- AnalogGym sensing front end on TSMC12 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.8 V.
.subckt ptat_6 GND VDD VOUT
NM0 VDD net5 net5 GND nulvt_l60_f4 m=49
NM1 net5 net5 net3 GND nulvt_l240_f6 m=6
NM5 VOUT VOUT GND GND nulvt_l60_f2 m=1
NM4 net1 VOUT VOUT GND nulvt_l36_f6 m=800
NM3 net2 net2 net1 GND nulvt_l90_f20 m=1
NM2 net3 net2 net2 GND nulvt_l60_f10 m=280
.ends ptat_6
